US04661146
2-(2-Hydroxyethoxy)benzenesulfonamide
A mixture of 74.6 g (0.43 mol) of 2-hydroxybenzenesulfonamide, 45.3 g (0.51 mole) of ethylene carbonate and 0.9 g of imidazole was heated to 160° with vigorous stirring. After about four hours the carbon dioxide evolution had subsided and no unreacted 2-hydroxybenzenesulfonamide was present in the reaction mixture. The mixture was allowed to cool and about 400 ml of diethyl ether was added to the thick oil. The two-phase mixture was stirred vigorously and was heated to reflux for about one hour. The diethyl ether was decanted off and a fresh portion of diethyl ether was added. The mixture was again stirred and heated to reflux. After the diethyl ether was decanted off a fresh portion of diethyl ether was added and the mixture was allowed to stand at ambient temperature for about 18 hours. The resulting light brown solid was isolated by filtration and was recrystallized from nitromethane to afford 49 g (53%) of the title compound; m.p. 94°-99° C. The infrared spectrum exhibited a broad peak at approximately 3400 cm-1 consistent with the primary alcohol of the product and peaks at 3370 cm-1 and 3270 cm-1 consistent with the NH2 of a primary sulfonamide.

reactant | 2-hydroxybenzenesulfonamide | 0.43 mol, 74.6 g | OC1=C(C=CC=C1)S(=O)(=O)N | C6H7NO3S
reactant | ethylene carbonate | 0.51 mole, 45.3 g | C1(OCCO1)=O | C3H4O3
reactant | carbon dioxide | C(=O)=O | CO2
catalyst | imidazole | 0.9 g | N1C=NC=C1 | C3H4N2
solvent | diethyl ether | about 400 ml | C(C)OCC | C4H10O
product | 2-(2-Hydroxyethoxy)benzenesulfonamide | 49 g, 53% | OCCOC1=C(C=CC=C1)S(=O)(=O)N | C8H11NO4S
